US07687627B2
(S)-N-{3-[4-(4-Phenylamino-4-cyanopiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
A mixture of (S)-N-{3-[4-(4-oxo-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (0.57 mmol), sodium cyanide in 5 ml acetic acid was stirred at room temperature for 1 hour. To the reaction mixture aniline was added and was stirred at 60° C. for overnight. The solvent was removed in vacuum and the residue was extracted with chloroform and was washed with water and dried. Evaporation of solvent followed by silica gel chromatographic purification afforded the title compound in 51% yield. M.P. 81-85° C. and MS (M+1)=452 (MH+, 100%) for M.F.=C24H26FN5O3.

reactant | (S)-N-{3-[4-(4-oxo-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 0.57 mmol | O=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C17H20FN3O4
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | (S)-N-{3-[4-(4-Phenylamino-4-cyanopiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 51% yield | C1(=CC=CC=C1)NC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)C#N | C24H26FN5O3
